* High-stability UniversalOpAmp model with +/-13.5V saturation (TL082 equivalent)
.subckt level1 1 2 3 4 5
E1 5 0 TABLE {1e5*(V(1)-V(2))} (-13.5, -13.5) (13.5, 13.5)
Rin 1 2 10Meg
Rout 5 0 10
.ends level1

.subckt level2 1 2 3 4 5
E1 5 0 TABLE {1e5*(V(1)-V(2))} (-13.5, -13.5) (13.5, 13.5)
Rin 1 2 10Meg
Rout 5 0 10
.ends level2
